US05488055
A mixture of 1-ethyl-4-chloro-8-bromo-1H-pyrazolo[3,4-b]quinoline (2.0 g, 6.44 mmol), DMSO (5 mL) and cyclohexylmethylamine (1.46 g, 12.9 mmol) was heated at 80°-90° C. for 3 hours. The reaction mixture was cooled to room temperature and then was poured into water. The resulting solid was collected by filtration, washed with water and evaporated. The residue was purified by column chromatography on silica gel eluting with CH2Cl2 /ether (9/1) to afford 2.0 g (80%) of 1-ethyl-8-bromo-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, as a yellow solid, m.p. 160°-162° C.

reactant | 1-ethyl-4-chloro-8-bromo-1H-pyrazolo[3,4-b]quinoline | 6.44 mmol, 2.0 g | C(C)N1N=CC=2C1=NC1=C(C=CC=C1C2Cl)Br | C12H9BrClN3
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
reactant | cyclohexylmethylamine | 12.9 mmol, 1.46 g | C1(CCCCC1)CN | C7H15N
solvent | water | O | H2O
product | 1-ethyl-8-bromo-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 2.0 g, 80% | C(C)N1N=CC=2C1=NC1=C(C=CC=C1C2NCC2CCCCC2)Br | C19H23BrN4
